data/mechanism_extracts/NatCommun/10.1038_s41467-023-44025-0.json
{"doi": "10.1038_s41467-023-44025-0", "journal": "NatCommun", "is_review": false, "rxn_class_summary": "Electrochemical gold-catalyzed intramolecular aminoarylation/oxyarylation of unactivated alkenes using aryl hydrazines as aryl electrophile surrogates, achieved through an oxidation-relay strategy that enables gold pi-acid activation under anodic conditions.", "mechanism_family": ["electrocatalysis_inner_sphere", "radical_anodic", "cation_initiated"], "electrochemical_role": "Anodic oxidation of aryl hydrazine (ArNHNH2.HOTf) generates an aryl radical/cation that oxidizes L-Au(I)Cl directly to [L-Au(III)-Ar], bypassing the L-Au(I)-Ar transmetalation intermediate; cathode performs proton reduction to H2 under acidic conditions (or O2 reduction to HO- under basic conditions).", "key_intermediates": [{"name": "Ph3P-Au(I)Cl (gold catalyst resting state under acidic conditions)", "smiles": null, "role": "resting_state"}, {"name": "aryl radical (from oxidative denitrogenation of ArNHNH2)", "smiles": null, "role": "transient"}, {"name": "[L-Au(III)-Ar] (key pi-acid active species formed via oxidation relay)", "smiles": null, "role": "reactive"}, {"name": "Au(III)-alkene pi-complex (after coordination of pendant alkene)", "smiles": null, "role": "reactive"}, {"name": "L-Au(I)-Ar (transmetalation intermediate, deliberately bypassed)", "smiles": null, "role": "off_pathway"}, {"name": "beta-aryl-Au(III) alkyl intermediate after nucleophilic anti-attack on pi-complex", "smiles": null, "role": "transient"}], "electron_flow": "Anode oxidizes ArNHNH2.HOTf via denitrogenation to give an aryl radical (or aryl cation), which converts Ph3P-Au(I)Cl directly into [Ph3P-Au(III)-Ar]; the Au(III) species then pi-activates the pendant alkene of the substrate, intramolecular NuH (NHTs or OH) attacks anti to gold, and C(sp3)-C(sp2) reductive elimination delivers the aminoarylation/oxyarylation product while regenerating Au(I); the cathode reduces H+ to H2.", "rate_determining_step": "Oxidation of Au(I) to Au(III) (turnover-limiting in the related diaryl-coupling system); in the relay design, oxidation of hydrazine to aryl radical initiates the cycle.", "probe_reagents": [{"name": "aryl boronic acid (ArB(OH)2) under EAO conditions", "smiles": null, "purpose": "intermediate_trap", "observation": "Under standard EAO conditions gives only diaryl coupling product 4aa (>95%) with 0% alkene aminoarylation, confirming fast transmetalation to L-Au(I)-Ar followed by reductive elimination and no pi-activation pathway."}, {"name": "1:1 mixture of p-tBu-C6H4-B(OH)2 and p-COOMe-C6H4-B(OH)2", "smiles": null, "purpose": "crossover", "observation": "Dominant homo-coupling of electron-rich p-tBu substrate (60% tBu-tBu, <5% cross, 0% COOMe-COOMe) indicates Au(I)-Ar transmetalation is much faster than Au(III)-Ar transmetalation and is turnover-limiting."}, {"name": "31P NMR monitoring of catalyst", "smiles": null, "purpose": "other", "observation": "Identifies Ph3P-Au(I)-C (alkynyl or aryl) as the gold(I) resting state under EAO conditions."}, {"name": "Ph3P-Au-C6H4-F under MeCN:HOAc, no current", "smiles": null, "purpose": "intermediate_trap", "observation": "100% conversion to H-C6H4-F within 30 min, demonstrating rapid protodemetalation of L-Au(I)-Ar under acidic conditions (rationale for switching to basic conditions for Ar-Ar coupling)."}, {"name": "Hydrazine salts with different counterions (HCl, HBF4, HOTf)", "smiles": null, "purpose": "other", "observation": "Only the OTf- salt (5a-HOTf) gave the desired aminoarylation 3a (16% then optimized to 92%); HCl and HBF4 salts gave only trace product, indicating the critical role of non-coordinating OTf- anion."}, {"name": "Control without Au catalyst or without current", "smiles": null, "purpose": "other", "observation": "No product formation, confirming both gold catalyst and electrochemistry are required."}, {"name": "1,2-disubstituted E-alkene substrate", "smiles": null, "purpose": "other", "observation": "No cyclization observed; alkene recovered unreacted, attributed to steric hindrance blocking Au(III) pi-coordination."}, {"name": "4-Pyridinyl hydrazine", "smiles": null, "purpose": "other", "observation": "No alkene conversion, attributed to rapid decomposition of the in-situ formed pyridinyl radical, supporting an aryl-radical-based initiation."}], "evidence_types_used": ["intermediate_trap_other", "crossover", "on/off_light_or_current", "isolation_of_intermediate", "other"], "evidence_strength": "medium", "notes": "Authors explicitly contrast two mechanistic regimes under EAO gold catalysis: (i) the conventional Au(I)/Au(III) transmetalation/reductive-elimination pathway (acidic for alkyne or basic for aryl C-C coupling) which proceeds via [L-Au(I)-Ar] and gives only coupling products with no pi-activation; and (ii) the new 'oxidation relay' in which aryl hydrazine is oxidized first to an aryl radical that directly forges [L-Au(III)-Ar] without going through [L-Au(I)-Ar], thereby unlocking pi-acid reactivity. Aryl cation as the relay species is mentioned as an alternative to aryl radical. A concurrent report by Xie using aryl hydrazines under different conditions gave only C-C coupling without pi-activation, highlighting that bypassing transmetalation is the key design element."}
